US07173031B2
E) 3-Fluoro-4-(2-(pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine
A mixture of 3-fluoro-4-(2-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine (275 mg, 0.61 mmol), tetrabutylammonium fluoride (1 M in THF, 4 mL), and 1,2-diaminoethane (0.2 mL) in THF (4 mL) was heated at 65° C. for 24 h. The solvent was removed in vacuo. The residue was purified by flash column chromatography (silica gel, 5% MeOH/EtOAc) to afford the desired product (180 mg, 92%) as a yellow solid. LC/MS(ESI+) m/z 321 (M+H)+.

reactant | 3-fluoro-4-(2-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine | 0.61 mmol, 275 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(C(=C2)C=2C=NC=CC2)COCC[Si](C)(C)C)N | C24H27FN4O2Si
reactant | tetrabutylammonium fluoride | 1 M, 4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,2-diaminoethane | 0.2 mL | NCCN | C2H8N2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-Fluoro-4-(2-(pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine | 180 mg, 92% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NC(=C2)C=2C=NC=CC2)N | C18H13FN4O
